US06420359B1
b) 5-Bromo-2-(cyclopropylamino)-N-(2,6-dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide
A solution of 5-bromo-2-chloro-N-(2,6-dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide (3.00 g, 7.61 mmol) and cyclopropylamine (2.11 mL, 30.5 mmol) in xylenes was heated in a sealed tube at 120° C. for 24 h. The reaction was cooled to 0° C., diluted with water and extracted with EtOAc (2×). The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure. The resulting residue was purified by trituration (Et2O:hexane, 3:1) to give the title compound (2.35 g, 75% yield) as a pale yellow solid.

reactant | 5-bromo-2-chloro-N-(2,6-dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 7.61 mmol, 3.00 g | BrC=1C=C(C(=NC1)Cl)C(=O)NC=1C(=NC(=CC1C)Cl)Cl | C12H7BrCl3N3O
reactant | cyclopropylamine | 30.5 mmol, 2.11 mL | C1(CC1)N | C3H7N
solvent | water | O | H2O
product | 5-Bromo-2-(cyclopropylamino)-N-(2,6-dichloro-4-methyl-3-pyridinyl)-3-pyridinecarboxamide | 2.35 g, 75% yield | BrC=1C=C(C(=NC1)NC1CC1)C(=O)NC=1C(=NC(=CC1C)Cl)Cl | C15H13BrCl2N4O
